US08747695B2
3) Synthesis of 1-(4-n-butylphenylethynyl)-4-(4-n-propylphenylethynyl)naphthalene
2.35 g (6.3 mmol) of 1-bromo-4-(4-n-propylphenylethynyl)naphthalene and 1.33 g (8.4 mmol) of 4-n-butylphenylacetylene are initially introduced in 40 ml of NEt3, 60 mg (0.3 mmol) of copper(I) iodide and 200 mg (0.3 mmol) of bis(triphenylphosphine)palladium(II) chloride are added, and the mixture is refluxed for 18 h. The batch is cooled, water and heptane are added, and the phases are separated. The organic phase is washed with saturated ammonium chloride solution and subsequently with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated in a rotary evaporator. The residue of compound (1) is purified by column chromatography (SiO2, heptane), and the further purification is carried out by recrystallisation from isopropanol.

reactant | 1-bromo-4-(4-n-propylphenylethynyl)naphthalene | 6.3 mmol, 2.35 g | BrC1=CC=C(C2=CC=CC=C12)C#CC1=CC=C(C=C1)CCC | C21H17Br
reactant | 4-n-butylphenylacetylene | 8.4 mmol, 1.33 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | water | O | H2O
reactant | heptane | CCCCCCC | C7H16
solvent | NEt3 | 40 ml | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.3 mmol, 60 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.3 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-n-butylphenylethynyl)-4-(4-n-propylphenylethynyl)naphthalene | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C2=CC=CC=C12)C#CC1=CC=C(C=C1)CCC | C33H30
